US08802661B2
Preparation of 2-((2-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-9-(4-(tert-butoxycarbonyl)phenyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysene-3a-carboxamido)ethyl)(methyl)amino)ethyl tert-butyl succinate. Intermediate 40
A mixture of tert-butyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-(2-((2-hydroxyethyl)(methyl)amino)ethylcarbamoyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate (40 mg, 0.056 mmol), tert-butyl methyl succinate (21.06 mg, 0.112 mmol), Hunig'sBase (0.049 mL, 0.280 mmol) and EDC (21.45 mg, 0.112 mmol) in dichloromethane (1 mL) was stirred at 20° C. for 12 hours. LCMS indicated the formation of desired product. The reaction mixture was quenched with distilled water, extracted with DCM (3×4 mL). All the extracts were combined, dried over sodium sulfate, filtered and concentrated under reduced pressure to provide the crude including the title compound as a white solid (40 mg, 82%). LCMS: m/e 871.43 (M+H)+, 3.93 min (method 1).

reactant | tert-butyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-(2-((2-hydroxyethyl)(methyl)amino)ethylcarbamoyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate | 0.056 mmol, 40 mg | OCCN(CCNC(=O)[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C(=O)OC(C)(C)C)C=C1)C)[C@@H](CC2)C(=C)C)C | C46H70N2O4
reactant | tert-butyl methyl succinate | 0.112 mmol, 21.06 mg | C(CCC(=O)OC)(=O)OC(C)(C)C | C9H16O4
reactant | EDC | 0.112 mmol, 21.45 mg
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 2-((2-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-9-(4-(tert-butoxycarbonyl)phenyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysene-3a-carboxamido)ethyl)(methyl)amino)ethyl tert-butyl succinate | C(CCC(=O)OC(C)(C)C)(=O)OCCN(C)CCNC(=O)[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C=C1)C(=O)OC(C)(C)C)C)[C@@H](CC2)C(=C)C | C54H82N2O7
